US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(2-hydroxyethoxy-carbonylamino)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (192 mg) is dissolved in acetone (5 ml), and thereto is added 2.67M chromium (VI) oxide in dilute sulfuric acid solution (320 μl) under ice-cooling. The mixture is stirred for 4.5 hours, and partitioned by adding sodium bisulfite, water and ethyl acetate. The organic layer is washed with saturated brine and dried over magnesium sulfate, then concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; chloroform:methanol=9:1→7:3) to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)-benzyl]-(5-carboxymethoxycarbonylaminopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (78 mg). MS (m/z): 701 [M+H]+.

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(2-hydroxyethoxy-carbonylamino)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 192 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)NC(=O)OCCO)CC | C30H32F6N6O6
reactant | acetone | 5 ml | CC(=O)C | C3H6O
solvent | sulfuric acid | 320 μl | S(O)(O)(=O)=O | H2O4S
catalyst | chromium (VI) oxide | 2.67M | [O-2].[Cr+6].[O-2].[O-2]
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)-benzyl]-(5-carboxymethoxycarbonylaminopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 78 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)NC(=O)OCC(=O)O)CC | C30H30F6N6O7
